US07368578B2
To a mixture of ethyl 1-benzyl-3-({3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy)-1H-pyrazole-4-carboxylate (1.80 g), tetrahydrofuran (10 mL) and ethanol (10 mL) was added 1N aqueous sodium hydroxide solution (15 mL), and the mixture was heated under reflux for 4 hrs. 1N Hydrochloric acid (15 mL) and water were added to the reaction mixture, and the precipitated crystals were collected by filtration to give 1-benzyl-3-({3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy)-1H-pyrazole-4-carboxylic acid as crystals (1.70 g, yield 98%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 162-163° C.

reactant | ethyl 1-benzyl-3-({3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy)-1H-pyrazole-4-carboxylate | 1.80 g | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)OCC)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)OC | C32H31N3O6
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 15 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 15 mL | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-benzyl-3-({3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy)-1H-pyrazole-4-carboxylic acid | 1.70 g, yield 98% | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)O)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)OC | C30H27N3O6
